US04916149
2.54 g of 4-chloro-3-sulfamoylbenzoyl chloride were added in little portions to the solution of 2.2 g of 1-amino-5-methoxycarbonylbenzimidazole-2-thione in 8 ml of dimethylformamide and 1.4 ml of triethylamine while stirring. The reaction mixture was set aside overnight, then the pH value was adjusted to 5 by acetic acid and it was diluted with 100 ml of water. The separated gum slowly disaggregated to a powder which was filtered by suction, washed with water and dried at 80° C. The crude product obtained was boiled with 10 ml of glacial acetic acid for 30 minutes, then poured into 50 ml of water. The separated gum disaggregated to a powder by stirring. The precipitate was filtered by suction, washed with water and dried at 80° C. to give 2.4 g (54.5%) of 1-(4'-chloro-3'-sulfamoylbenzoyl)amino-5-methoxycarbonylbenzimidazole-2-thione, as a beige powder, m.p.: 258°-261° C. (with decomposition) after recrystallization from a mixture of dimethylformamide and water (1:2).

reactant | 4-chloro-3-sulfamoylbenzoyl chloride | 2.54 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
reactant | 1-amino-5-methoxycarbonylbenzimidazole-2-thione | 2.2 g | NN1C(NC2=C1C=CC(=C2)C(=O)OC)=S | C9H9N3O2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | water | 100 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 1-(4'-chloro-3'-sulfamoylbenzoyl)amino-5-methoxycarbonylbenzimidazole-2-thione | 2.4 g, 54.5% | ClC1=C(C=C(C(=O)NN2C(NC3=C2C=CC(=C3)C(=O)OC)=S)C=C1)S(N)(=O)=O | C16H13ClN4O5S2
